US08664257B2
Methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate
Dimethyl acetylenedicarboxylate (87.4 g, 757 mmol) was added to a solution of 2-fluoro-phenylhydrazine hydrochloride (100 g, 615 mmol) in methanol (1 l) at 0° C. Then triethylamine (125 g, 1.23 mol) was added slowly during 60 min. The solution was stirred for 16 h at room temperature, the solvent then removed under reduced pressure and the residue dissolved in EA (500 ml). After washing with aqueous hydrochloric acid (500 ml), the solvent was removed under reduced pressure. The title compound was obtained as an almost white solid in quantitative yield.

reactant | Dimethyl acetylenedicarboxylate | 757 mmol, 87.4 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 2-fluoro-phenylhydrazine hydrochloride | 615 mmol, 100 g | Cl.FC1=C(C=CC=C1)NN
reactant | triethylamine | 1.23 mol, 125 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 l | CO | CH4O
product | Methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | quantitative yield | FC1=C(C=CC=C1)N1N=C(C=C1O)C(=O)OC | C11H9FN2O3
